US08865752B2
Step-5: A solution of N-(4-(2-(dimethylamino)-1-hydroxybutyl)phenyl)acetamide (3.0 g, 12.0 mmol) in 50 mL of acetonitrile was treated with carbonyldiimidazole (2.53 g, 15.58 mmol) and heated at reflux overnight. The solution was concentrated in vacuo and the residue partitioned between half saturated NaHCO3 and DCM. The aqueous phase was extracted with DCM three times. The combined organic extracts were dried over Na2SO4, decanted and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 8% MeOH (2N NH3)/DCM to give N-(4-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)phenyl)acetamide. MS ESI: m/z 301.19 [M+1+].

reactant | N-(4-(2-(dimethylamino)-1-hydroxybutyl)phenyl)acetamide | 12.0 mmol, 3.0 g | CN(C(C(O)C1=CC=C(C=C1)NC(C)=O)CC)C | C14H22N2O2
reactant | carbonyldiimidazole | 15.58 mmol, 2.53 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-(4-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)phenyl)acetamide | CN(C(C(N1C=NC=C1)C1=CC=C(C=C1)NC(C)=O)CC)C | C17H24N4O
